* NMOS fixed gate bias, Rd load — isolates the drain-current equation
Vdd vdd 0 DC 10
Vg  g   0 DC 2
Rd  vdd d 100k
M1  d g 0 0 NMOD L=2u W=10u
.model NMOD NMOS (level=1 vto=1 kp=2e-5 lambda=0 tox=0)
.control
op
print v(d) v(g)
.endc
.end
